US04602027
A mixture of benzyl 3-(1-methylcyclohexylcarbonylamino)-4-oxovalerate (1.2 g), toluene (20 ml) and phosphorus oxychloride (2.0 ml) was refluxed with stirring for 4 hours. The solvent was distilled off and aqueous sodium hydrogen carbonate was added. The mixture was extracted with ethyl ether and the ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was purified by chromatography on silica gel (13 g) [eluent: hexaneacetone (9:1)] to give benzyl 5-methyl-2-(1-methylcyclohexyl)- 4-oxazoleacetate; yield 1.0 g (87.7%).

reactant | benzyl 3-(1-methylcyclohexylcarbonylamino)-4-oxovalerate | 1.2 g | CC1(CCCCC1)C(=O)NC(CC(=O)OCC1=CC=CC=C1)C(C)=O | C20H27NO4
reactant | phosphorus oxychloride | 2.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl 5-methyl-2-(1-methylcyclohexyl)- 4-oxazoleacetate | CC1=C(N=C(O1)C1(CCCCC1)C)CC(=O)OCC1=CC=CC=C1 | C20H25NO3
